US09416135B2
A solution of methyl 2,4-dichloropyrimidine-5-carboxylate (27 mg, 0.13 mmol) in dichloroethane/t-butanol (1:1, 2 mL) was cooled to 0° C. ZnCl2 solution (1.0 M in ether, 0.29 mL, 0.29 mmol, 2.2 eq.) was added. After stirring for 1 h, a solution of (R)-methyl 1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (30 mg, 0.09 mmol) in dichloroethane/t-butanol (1:1, 2 mL) was added slowly at 0° C. The mixture was stirred at rt overnight. Water (10 mL) was added and the mixture was extracted with EtOAc (10 mL×3). The combined organic layers were dried over anhydrous Na2SO4, filtered and concentrated under vacuum. The residue was purified by preparative TLC to afford (R)-methyl 2-(4-chloro-5-(methoxycarbonyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (34 mg, 77.3% yield) as a solid.

reactant | methyl 2,4-dichloropyrimidine-5-carboxylate | 0.13 mmol, 27 mg | ClC1=NC=C(C(=N1)Cl)C(=O)OC | C6H4Cl2N2O2
reactant | (R)-methyl 1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 0.09 mmol, 30 mg | C(C)(C)[C@@H]1C=2N(CCN1)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC | C16H21N3O4S
reactant | Water | 10 mL | O | H2O
solvent | dichloroethane t-butanol | 2 mL | ClC(C)Cl.C(C)(C)(C)O
solvent | dichloroethane t-butanol | 2 mL | ClC(C)Cl.C(C)(C)(C)O
catalyst | ZnCl2 | 0.29 mmol, 1.0 M, 0.29 mL, 2.2 eq. | [Cl-].[Cl-].[Zn+2]
product | (R)-methyl 2-(4-chloro-5-(methoxycarbonyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 34 mg, 77.3% yield | ClC1=NC(=NC=C1C(=O)OC)N1[C@@H](C=2N(CC1)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC)C(C)C | C22H24ClN5O6S
